US05981571
(trans)-N-Methoxy-N-methyl-3-(2,3-Dihydrobenzodioxin-5-yl)propenamide
A mixture of (trans)-3-(2,3-dihydrobenzodioxin-5-yl)propenoic acid (9.83 g, 47.7 mmol), thionyl chloride (20 mL), and CH2Cl2 (75 mL) was heated to reflux for 1 hr, and then concentrated in vacuo to give a yellow-green solid. This material was dissolved in ethyl acetate (75 mL), and a solution of N,O-dimethylhydroxylamine hydrochloride (9.5 g) in saturated Na2CO3 (100 mL) was added with stirring. The mixture was stirred for 90 min and then diluted with water and ethyl acetate. The ethyl acetate layer was separated and washed twice with water and twice with saturated Na2CO3. The ethyl acetate layer was concentrated in vacuo to give a brown oil. This crude product was chromatographed on silica gel using 1:1 ethyl acetate/methylene chloride as the eluent to give a clear oil that crystallized upon standing (11.1 g, 93.1%).

reactant | (trans)-3-(2,3-dihydrobenzodioxin-5-yl)propenoic acid | 47.7 mmol, 9.83 g | O1CCOC2=C1C=CC=C2/C=C/C(=O)O | C11H10O4
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
reactant | N,O-dimethylhydroxylamine hydrochloride | 9.5 g | Cl.CNOC
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | Na2CO3 | 100 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | (trans)-N-Methoxy-N-methyl-3-(2,3-Dihydrobenzodioxin-5-yl)propenamide | CON(C(\C=C\C1=CC=CC=2OCCOC21)=O)C | C13H15NO4
